US07465795B2
4-amino-N-cyclopropyl-7-fluoro-8-(2,4-dimethoxyphenyl)cinnoline-3-carboxamide
Using Method A, 4-amino-7-fluoro-8-iodo-N-cyclopropyl-cinnoline-3-carboxamide (178 mg, 0.48 mmol) and 2,4-dimethoxyphenylboronic acid (175 mg, 0.96 mmol) were reacted. After purification the title compound (110 mg, 60% yield) was obtained as a white solid. 1H NMR (500 MHz, DMSO-d6) δ 8.98 (d, J=4.8 Hz, 1H), 8.47 (a dd, J=5.6, 9.3 Hz, 1H), 7.70 (t, J=9.0 Hz, 1H), 7.17 (d, J=8.0 Hz, 1H), 6.70(s, 1H), 6.63 (a d, J=8.3 Hz, 1H), 3.84 (s, 3H), 3.64 (s, 3H), 2.95 (m, 1H), 0.67 (m, 4H). MS APCI, m/z=383.

reactant | 4-amino-7-fluoro-8-iodo-N-cyclopropyl-cinnoline-3-carboxamide | 0.48 mmol, 178 mg | NC1=C(N=NC2=C(C(=CC=C12)F)I)C(=O)NC1CC1 | C12H10FIN4O
reactant | 2,4-dimethoxyphenylboronic acid | 0.96 mmol, 175 mg | COC1=C(C=CC(=C1)OC)B(O)O | C8H11BO4
product | 4-amino-N-cyclopropyl-7-fluoro-8-(2,4-dimethoxyphenyl)cinnoline-3-carboxamide | 110 mg, 60% yield | NC1=C(N=NC2=C(C(=CC=C12)F)C1=C(C=C(C=C1)OC)OC)C(=O)NC1CC1 | C20H19FN4O3
